US04784996
10-Hydroxy-10-(4-ethoxybutyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indole
Ether (10 ml) and a few drops 4-bromo-1-ethoxybutane were added to magnesium turnings (1.46 g). After the reaction started, the remainder of the 4-bromo-1-ethoxybutane (total 10.86 g) in ether (50 ml) was added dropwise over 20 minutes. The mixture was stirred under argon at room temperature for 30 minutes, cooled to 0° C. over 30 minutes and 3,4-dihydropyrimido[1,2-a]indol-10(2H)-one (3.72 g) in dry 1,2-dichloroethane (20 ml) added dropwise over 20 minutes. The solution was stirred under argon at 0° C. for 1 hour, poured onto a swirling mixture of ice (100 ml) and saturated aqueous ammonium chloride (60 ml), and the mixture stirred for a further 20 minutes. The mixture was concentrated in vacuo and the aqueous residue extracted with chloroform (3×100 ml). The extracts were dried (Na2SO4) and concentrated in vacuo. Ether (20 ml) was added and the product was filtered and recrystallised from ethyl acetate to give the title compound as the free base (2.99 g), m.p. 123°-124° C. The free base was acidified with ethereal HCl to give the title compound as the hydrochloride, m.p. 189°-190° C.

reactant | magnesium | 1.46 g | [Mg] | Mg
reactant | 4-bromo-1-ethoxybutane | 10.86 g | BrCCCCOCC | C6H13BrO
reactant | 3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 3.72 g | N=1CCCN2C1C(C=1C=CC=CC21)=O | C11H10N2O
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
catalyst | 4-bromo-1-ethoxybutane | a few drops | BrCCCCOCC | C6H13BrO
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | Ether | 10 ml | CCOCC | C4H10O
product | 10-Hydroxy-10-(4-ethoxybutyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indole | OC1(C=2N(C=3C=CC=CC13)CCCN2)CCCCOCC | C17H24N2O2
